US04659362
(a) Ethyl 2,4,6-trimethylpyrimidine-5-carboxylate [11.0 g; prepared according to Urban & Shnider, Helv. Chim Acta, 41, 1806 (1958)] was stirred with a slight excess of lithium aluminium hydride in dry tetrahydrofuran (100 ml) at room temperature for 2 hr. The solvent was evaporated and the residue was shaken with a little water. The dried (MgSO4) ethyl acetate extract was evaporated and the residue was purified by column chromotography over alumina with ethyl acetate elution to give 5-(hydroxymethyl)-2,4,6-trimethylpyrimidine as white crystals, mp 68° C.

reactant | Ethyl 2,4,6-trimethylpyrimidine-5-carboxylate | 11.0 g | CC1=NC(=C(C(=N1)C)C(=O)OCC)C | C10H14N2O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-(hydroxymethyl)-2,4,6-trimethylpyrimidine | OCC=1C(=NC(=NC1C)C)C | C8H12N2O
